US09056874B2
2-((5,7-Dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of 2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (370 mg, 0.814 mmol), KOH (457 mg, 8.14 mmol), and isoamylamine (1.892 mL, 16.28 mmol) in EtOH (15 mL) was stirred at 100° C. under microwave irradiation for 2 hr. The reaction mixture was diluted with CH2Cl2. The mixture was filtered through SiO2 pad. The SiO2 cake was washed with a mixture of CH2Cl2/MeOH (c.a. 6/1). The organic solution was concentrated and purified by silica gel flash column chromatography [(5% 2,2,2-trifluoroethanol in CH2Cl2)/MeOH=1/0 to 85/15] to give the title compound. 1H NMR (400 MHz, DMSO-d6, with about 5 μL TFA) δ ppm 11.01 (br. s., 1H), 8.05 (s, 1H), 7.67 (br. d, J=8.30 Hz, 1H), 7.62 (br. d, J=8.30 Hz, 1H), 7.26 (t, J=2.80 Hz, 1H), 6.79 (s, 1H), 6.43 (dd, J=1.80, 2.80 Hz, 1H), 4.53 (s, 2H), 2.43 (s, 3H), 2.35 (s, 3H). HRMS calcd. for C19H16N4 (M+H)+ 301.1448. found 301.1459.

reactant | 2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.814 mmol, 370 mg | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N | C26H22N4O2S
reactant | KOH | 8.14 mmol, 457 mg | [OH-].[K+]
reactant | isoamylamine | 16.28 mmol, 1.892 mL | C(CC(C)C)N | C5H13N
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-((5,7-Dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H16N4
